US05691323
A mixture of 1-(2-(5-pyrimidinyl)-prop-2-yl)-4-oxopiperidine (117 mg), 4-(2-oxo-1-benzimidazolinyl)piperidine (128 mg), 1,2-dichloroethane (2.5 mL), glacial acetic acid (0.031 mL) and sodium triacetoxyborohydride (170 mg) was stirred at room temperature for 48 h. The reaction mixture was poured into dichloromethane (15 mL) and saturated aqueous Na2 CO3 (8 mL) and the layers separated. The aqueous layer was extracted with dichloromethane (2×15 mL) and the combined organic layers dried over Na2SO4 and concentrated under reduced pressure. Purification by column chromatography, eluting with a gradient of methylene chloride; 0-6% methanol; 1% NH4OH, followed by trituration with diethyl ether gave 104 mg of 1,3-dihydro-1-(1-{1-[2-(5-pyrimidinyl)-prop-2-yl]piperidin-4-yl}piperidin-4-yl)-2H-benzimidazol-2-one as a colorless solid: 1H NMR (400 MHz, CDCl3) 10.37 (br s, 1H), 9.10 (s, 1H), 8.88 (s, 2H), 7.30 (m, 1H), 7.12-7.01 (m, 3H), 4.37 (m, 1H), 3.11 (d, 2H), 2.86 (d, 2H), 2.53-2.30 (m, 5H), 2.18 (t, 2H), 1.85 (m, 4H), 1.57 (m, 2H), 1.40 (s, 6H). Treatment with citric acid in ethanol yielded the citrate salt, analysis calculated for C24H32N6O.0.1 H2O.1.5 C6H8O7 : C: 55.78, H: 6.27, N: 11.83 found C: 55.82, H: 6.56, N: 11.68.

reactant | 1-(2-(5-pyrimidinyl)-prop-2-yl)-4-oxopiperidine | 117 mg | N1=CN=CC(=C1)C(C)(C)N1CCC(CC1)=O | C12H17N3O
reactant | 4-(2-oxo-1-benzimidazolinyl)piperidine | 128 mg | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | 1,2-dichloroethane | 2.5 mL | ClCCCl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 170 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | acetic acid | 0.031 mL | C(C)(=O)O | C2H4O2
product | 1,3-dihydro-1-(1-{1-[2-(5-pyrimidinyl)-prop-2-yl]piperidin-4-yl}piperidin-4-yl)-2H-benzimidazol-2-one | 104 mg | N1=CN=CC(=C1)C(C)(C)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C24H32N6O
